US09334244B2
Step 4: 3-Amino-6-(4-(methylsulfonyl)phenyl)-N-phenylpyrazine-2-carboxamide
A mixture of 3-amino-6-(4-methylsulfonylphenyl)pyrazine-2-carboxylic acid (1.5 g, 5.114 mmol), diethoxyphosphorylformonitrile (926.8 mg, 849.5 μL, 5.114 mmol), aniline (476.2 mg, 465.9 μL, 5.114 mmol) and triethylamine (1.035 g, 1.426 mL, 10.23 mmol) was stirred in DME (18.75 mL) at 120° C. for 18 hours. After this time water was added and the resultant solid collected by filtration and triturated with acetone to give the desired product (1.88 g, 71% Yield). 1H NMR (400.0 MHz, DMSO) δ 10.47 (s, 1H), 9.04 (s, 1H), 8.51 (d, J=8.4 Hz, 2H), 8.01 (d, J=8.4 Hz, 2H), 7.89 (s, 2H), 7.82 (d, J=7.9 Hz, 2H), 7.41 (t, J=7.8 Hz, 2H), 7.18 (t, J=7.3 Hz, 1H) and 3.28 (s, 3H) ppm; MS (ES+) 369.0.

reactant | 3-amino-6-(4-methylsulfonylphenyl)pyrazine-2-carboxylic acid | 5.114 mmol, 1.5 g | NC=1C(=NC(=CN1)C1=CC=C(C=C1)S(=O)(=O)C)C(=O)O | C12H11N3O4S
reactant | diethoxyphosphorylformonitrile | 5.114 mmol, 849.5 μL, 926.8 mg | C(C)OP(=O)(OCC)C#N | C5H10NO3P
reactant | aniline | 5.114 mmol, 465.9 μL, 476.2 mg | NC1=CC=CC=C1 | C6H7N
reactant | triethylamine | 10.23 mmol, 1.426 mL, 1.035 g | C(C)N(CC)CC | C6H15N
solvent | DME | 18.75 mL | COCCOC | C4H10O2
solvent | water | O | H2O
product | 3-Amino-6-(4-(methylsulfonyl)phenyl)-N-phenylpyrazine-2-carboxamide | 1.88 g, 71% Yield | NC=1C(=NC(=CN1)C1=CC=C(C=C1)S(=O)(=O)C)C(=O)NC1=CC=CC=C1 | C18H16N4O3S
